Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p MVC 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p MVC vs telephone pole admitted for management of 
nondisplaced sternal fx w/ retrosternal hematoma, R 5,6,10 rib 
fx
 
Past Medical History:
PMHx: HLD, anxiety, depression

PSHx: Open appendectomy & R ovary removal years ago
 
Social History:
___
Family History:
___ 
 
Physical Exam:
Discharge Physical Exam:
VS: T: 97.5 PO BP: 113/79 L Sitting HR: 76 RR: 18 O2: 97% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic, MMM
CHEST: sternal tenderness with palpation 
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXT: no edema, wwp b/l

 
Pertinent Results:
LABS:

___ 09:57PM   ___ PO2-29* PCO2-44 PH-7.39 TOTAL CO2-28 
BASE XS-0 COMMENTS-GREEN TOP
___ 09:57PM   GLUCOSE-157* LACTATE-2.3* NA+-139 K+-3.6 
CL--103
___ 09:57PM   HGB-12.4 calcHCT-37 O2 SAT-49 CARBOXYHB-1 MET 
HGB-0
___ 09:57PM   freeCa-1.15
___ 09:44PM   GLUCOSE-156* UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-26 ANION GAP-15
___ 09:44PM   LIPASE-24
___ 09:44PM   cTropnT-<0.01
___ 09:44PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:44PM   WBC-13.0* RBC-3.82* HGB-11.7 HCT-35.6 MCV-93 
MCH-30.6 MCHC-32.9 RDW-12.8 RDWSD-43.7
___ 09:44PM   NEUTS-87.1* LYMPHS-5.8* MONOS-6.2 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-11.56* AbsLymp-0.77* AbsMono-0.82* 
AbsEos-0.01* AbsBaso-0.02
___ 09:44PM   PLT COUNT-189
___ 09:44PM   ___ PTT-26.4 ___
___ 09:44PM   ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F who was admitted to ___ s/p MVC 
versus telephone pole.  Imaging revealed her to have a 
nondisplaced sternal fracture with retrosternal hematoma, right 
rib fractures 5, 6, and 10.  The patient was admitted to the 
Trauma Surgery service for pain control and respiratory 
monitoring. 

Pain was controlled with acetaminophen and tramadol. The patient 
remained stable from a pulmonary standpoint; vital signs were 
routinely monitored. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 
 She was weaned off of nasal cannula to room air.  She remained 
stable from a cardiovascular standpoint.  She remained alert and 
oriented throughout hospitalization. The patient's fever curves 
were closely watched for signs of infection, of which there were 
none. The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.  She ambulated 
independently. She tolerated a regular diet.      

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  Advised the patient to space out the 
cyclobenzaprine and tramadol medications by at least four hours 
given the potential for sedation if both medications are taken 
together.  The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.  

 
Medications on Admission:
celexa 40mg daily, simvastatin 40mg daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*1 
2.  Cyclobenzaprine ___ mg PO TID:PRN muscle spasm 
RX *cyclobenzaprine 5 mg ___ tablet(s) by mouth three times a 
day Disp #*30 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation   
4.  Lidocaine 5% Patch 1 PTCH TD QAM right rib fx's 
apply for 12 hours and then leave off for 12 hours 
RX *lidocaine 5 % Apply patch to area of rib pain QAM Disp #*15 
Patch Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth Daily Disp #*10 Packet Refills:*0 
6.  TraMADol ___ mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Nondisplaced sternal fracture with retrosternal hematoma
-Right 5,6,10 rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ 
after a motor vehicle collision. You were found to have a 
fractured sternum and several rib fractures on the right side. 
Your pain is now well managed on oral pain medication and your 
vitals signs and lab work are stable. Physical Therapy has 
worked with you and recommended that you may be discharged to 
home with home physical therapy. 

Please note the following discharge instructions:

* Your injury caused multiple rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___